US08084559B2
There was dissolved 2.50 g (8.98 mmol) of 6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluorene in 56 mL of THF, and the obtained solution was cooled down to −78° C. To the solution, 5.68 mL of a 1.58 M-concentration hexane solution of n-butyllithium was added slowly, 5.68 mL of said hexane solution containing 8.98 mmol of n-butyllithium. Temperature of the resultant mixture was raised up to a room temperature, and the mixture was stirred for 3.5 hours at a room temperature. The mixture was cooled down to −78° C., and a solution of 2.92 g (8.98 mmol) of (2-allyloxy-3-tert-butyl-5-methylphenyl) chlorodiethylsilane in 12 mL of toluene was added to the mixture. Temperature of the resultant mixture was raised up to a room temperature, and the mixture was stirred for 3 hours, thereby obtaining a reaction solution. A mixture of 25 mL of a 10% aqueous solution of sodium hydrogen carbonate and 25 mL of a 10% aqueous solution of sodium carbonate was added to the reaction solution at 0° C. To the obtained mixture, 29 mL of toluene was added, and the mixture was separated to the toluene solution and the aqueous solution. The toluene solution was dried over sodium sulfate, and the mixture was filtered. The obtained filtrate was concentrated under a reduced pressure, thereby obtaining quantitatively (2-allyloxy-3-tert-butyl-5-methylphenyl)(6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluoren-11-yl)diethylsilane.

reactant | 6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluorene | 8.98 mmol, 2.50 g | CC1(C2=C3CCC(C=C3CC2=C2C(=C1)C=CC=C2)(C)C)C | C21H24
reactant | n-butyllithium | 8.98 mmol | C(CCC)[Li]
reactant | (2-allyloxy-3-tert-butyl-5-methylphenyl) chlorodiethylsilane | 8.98 mmol, 2.92 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)Cl | C18H29ClOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 56 mL | C1CCOC1 | C4H8O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 29 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 5.68 mL | CCCCCC | C6H14
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluoren-11-yl)diethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)C1C2=C3C(=CC(C2=C2CCC(C=C12)(C)C)(C)C)C=CC=C3 | C39H52OSi
